US05684017
2-Benzoyl-4-benzenesulfonylimino-4H-chromene
Combine 2-Benzoyl-chromone (0.17 g, 0.68 mmol) and benzenesulfonyl isocyanate (1.02 mL, 2.03 mmol) in acetonitrile (7.0 mL). Heat at reflux for 48 hours. Add methanol (5 mL) to quench the reaction. Evaporate in vacuo to obtain a solid. Recrystallize from methanol to give the title compound as a solid: mp, 159°-160° C. Elem. Anal calcd. for C22H15NO4S: C, 67.85; H, 3.88; N, 3.60. Found: C, 67.47; H, 3.70; N, 3.56.

reactant | 2-Benzoyl-chromone | 0.68 mmol, 0.17 g | C(C1=CC=CC=C1)(=O)C=1OC2=CC=CC=C2C(C1)=O | C16H10O3
reactant | benzenesulfonyl isocyanate | 2.03 mmol, 1.02 mL | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | acetonitrile | 7.0 mL | C(C)#N | C2H3N
product | 2-Benzoyl-4-benzenesulfonylimino-4H-chromene | C(C1=CC=CC=C1)(=O)C=1OC2=CC=CC=C2C(C1)=NS(=O)(=O)C1=CC=CC=C1 | C22H15NO4S
